data/mechanism_extracts/OrgBiomolChem/10.1039_d2ob00254j.json
{"doi": "10.1039_d2ob00254j", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical radical diselenylation/cyclization of o-divinylbenzenes with diaryl diselenides to give 1,3-diselenyl-1,3-dihydroisobenzofurans", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of diphenyl diselenide to a radical cation that fragments into PhSe• and PhSe+; subsequent anodic oxidations of benzylic radicals to cations; cathodic reduction of protons to H2", "key_intermediates": [{"name": "PhSeSePh radical cation", "smiles": "[Se+](c1ccccc1)([Se]c2ccccc2)", "role": "transient"}, {"name": "phenylselenyl radical (PhSe•) I", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenyl cation (PhSe+)", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "benzylic C-radical II from PhSe• addition to one vinyl group", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation III (after anodic oxidation of II)", "smiles": null, "role": "reactive"}, {"name": "benzylic alcohol intermediate IV (after H2O attack and deprotonation)", "smiles": null, "role": "reactive"}, {"name": "C-radical V from PhSe• addition to remaining vinyl", "smiles": null, "role": "reactive"}, {"name": "benzylic cation VI (after anodic oxidation of V)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes PhSeSePh to a radical cation that fragments into PhSe• and PhSe+; PhSe• adds to one alkene of the o-divinylbenzene to give benzylic radical II, which is anodically oxidized to cation III and trapped by H2O to give alcohol IV; PhSe• then adds to the second alkene giving radical V, which is again anodically oxidized to cation VI and intramolecularly trapped by the pendant hydroxyl to close the dihydroisobenzofuran; protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "H2 18O labeling", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O incorporated into the dihydroisobenzofuran oxygen, indicating the ring oxygen originates from water"}, {"name": "cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "PhSeSePh (2a) is oxidized at a significantly lower potential than substrate 1a, supporting initial anodic oxidation of the diselenide"}, {"name": "N2 atmosphere control", "smiles": null, "purpose": "other", "observation": "Reaction proceeds smoothly under N2, indicating O2 is not required as oxidant"}], "evidence_types_used": ["H/D_labeling", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors did not explicitly run radical-trap (TEMPO/BHT) experiments in the shown text; mechanism invokes sequential radical addition / anodic oxidation / nucleophilic trapping cycles (radical-polar crossover). X-ray structure of 3aa (CCDC 2143795) confirms product connectivity and diastereochemistry."}
